US08957066B2
Cesium carbonate (98 mg, 0.30 mmol) was added to a solution of (E)-tert-butyl (2-(3-(1H-pyrazol-4-yl)acrylamido)phenyl)carbamate (100 mg, 0.30 mmol) in anhydrous DMF (4 mL). A solution of 1-(2-bromoethoxy)-3-chloro-5-fluorobenzene (76 mg, 0.30 mmol) in DMF (1 mL) was then added and the reaction mixture was stirred overnight at room temperature under a nitrogen atmosphere. It was diluted with EtOAc (30 mL) and washed with water (2×40 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and filtered. The evaporated crude was purified by silica gel column chromatography using a gradient of 0-100% of EtOAc in hexanes to provide 144 mg of (E)-tert-butyl (2-(3-(1-(2-(3-chloro-5-fluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate as a white solid. MS: ES+(M+Na)+: 523

reactant | Cesium carbonate | 0.30 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (E)-tert-butyl (2-(3-(1H-pyrazol-4-yl)acrylamido)phenyl)carbamate | 0.30 mmol, 100 mg | N1N=CC(=C1)/C=C/C(=O)NC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C17H20N4O3
reactant | 1-(2-bromoethoxy)-3-chloro-5-fluorobenzene | 0.30 mmol, 76 mg | BrCCOC1=CC(=CC(=C1)F)Cl | C8H7BrClFO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (E)-tert-butyl (2-(3-(1-(2-(3-chloro-5-fluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate | 144 mg | ClC=1C=C(OCCN2N=CC(=C2)/C=C/C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C(C1)F | C25H26ClFN4O4
